US08048881B2
2.2. 4-((S)-2-amino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester
4-((S)-2-benzyloxycarbonylamino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester (3.27 g) was hydrogenated in EA (25 ml) with Pd/C (10%, 327 mg) overnight. The mixture was filtered through celite and evaporated off. HV drying afforded 2.29 g of the desired compound.

reactant | 4-((S)-2-benzyloxycarbonylamino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester | 3.27 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C23H33N3O7
solvent | EA | 25 ml | CC(OCC)=O | C4H8O2
catalyst | Pd/C | 327 mg | [Pd] | Pd
product | 4-((S)-2-amino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester | 2.29 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)N)=O | C15H27N3O5
